US06515011B2
DBU (0.209 mL, 1.40 mmol) was added to a stirred solution of 2,2,2-trichloroethyl 2-[4-chloro-2-(hydroxymethyl)phenyl]azetidine-1-carboxylate (0.346 g, 0.927 mmol) and DPPA (0.302 mL, 1.40 mmol) in THF (2 mL) at 0° C. After 2 h the reaction was partitioned between ether and water and the organic layer was washed with 1 M sodium hydroxide solution (2 times) and 1 M HCl solution, dried (Na2SO4) and evaporated in vacuo to an oil. Triphenylphosphine (0.262 g, 1.00 mmol) was added to a stirred solution of this oil in THF (2 mL) and water (4 drops). After 16 h methanol (2 mL), water (1 mL) and sodium hydroxide (1 pellet) were added, the mixture was stirred for a further 15 min and then was partitioned between ether and water. The organic layer was extracted into dilute aqueous acetic acid which was basicified with sodium hydroxide and extracted with ether. This organic layer was dried (Na2SO4) and evaporated in vacuo to an oil which was purified by flash column chromatography on silica (eluting with a chloroform/10% ammonium hydroxide in methanol gradient, 1-4% ammonium hydroxide/methanol) to give 2,2,2-trichloroethyl 2-[2-(aminomethyl)-4-chlorophenyl]azetidine-1-carboxylate (275 mg) as an oil: 1H NMR (CDCl3, 400 MHz) δ 2.11 (m, 1H), 2.78 (m, 1H), 3.77 (br d, J=14.4 Hz, 1H), 3.87 (br d, J=14.4 Hz, 1H), 4.16 (br m, 2H), 4.64 (br m, 2H), 5.63 (br s, 1H), 7.27 (obscured m, 1H), 7.35 (s, 1H), 7.50 (br s, 1H).

reactant | DBU | 1.40 mmol, 0.209 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2,2,2-trichloroethyl 2-[4-chloro-2-(hydroxymethyl)phenyl]azetidine-1-carboxylate | 0.927 mmol, 0.346 g | ClC1=CC(=C(C=C1)C1N(CC1)C(=O)OCC(Cl)(Cl)Cl)CO | C13H13Cl4NO3
reactant | DPPA | 1.40 mmol, 0.302 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | Triphenylphosphine | 1.00 mmol, 0.262 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | water | 4 drops | O | H2O
solvent | water | 1 mL | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 2,2,2-trichloroethyl 2-[2-(aminomethyl)-4-chlorophenyl]azetidine-1-carboxylate | 275 mg | NCC1=C(C=CC(=C1)Cl)C1N(CC1)C(=O)OCC(Cl)(Cl)Cl | C13H14Cl4N2O2
